US07442702B2
3-(3-{[(Biphenyl-4-ylmethyl)-amino]-methyl}phenyl)-propionic acid methyl ester.
The title compound of Step A was prepared from 3-(3-aminomethyl-phenyl)-propionic acid methyl ester hydrochloride salt, of Preparation 44, and biphenyl-4-carbaldehyde using the method described in Example 1, Step A except the mine was formed in MeOH at reflux over 3 h. 1H NMR (400 MHz, CDCl3) δ 7.55 (m, 4H), 7.40 (m, 4H), 7.32 (m, 1H), 7.29-7.22 (m, 2H), 7.17 (m, 1H), 7.07 (d, 1H), 3.82 (s, 2H), 3.79 (s, 2H), 3.64 (s, 3H), 2.93 (t, 2H), 2.61 (t, 2H); MS 360 (M+1).

reactant | 3-(3-aminomethyl-phenyl)-propionic acid methyl ester hydrochloride salt | Cl.COC(CCC1=CC(=CC=C1)CN)=O
reactant | biphenyl-4-carbaldehyde | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
solvent | MeOH | CO | CH4O
product | 3-(3-{[(Biphenyl-4-ylmethyl)-amino]-methyl}phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=CC=CC=C1)=O | C24H25NO2
